US09403846B2
Step 6: Synthesis of N-hydroxy-2-({(1R)-1-[(2S)-tetrahydrofuran-2-yl]but-3-en-1-yl}oxy)ethanimine (C98)
({(1R)-1-[(2S)-Tetrahydrofuran-2-yl]but-3-en-1-yl}oxy)acetaldehyde (C97) was converted to the product using the method described for the synthesis of N-hydroxy-2-({1-[(1R,2R)-2-methylcyclopropyl]but-3-en-1-yl}oxy)ethanimine (C84) in Example 20. Yield: 4.7 g, 23.6 mmol, 65% over 2 steps from (C95).

reactant | ({(1R)-1-[(2S)-Tetrahydrofuran-2-yl]but-3-en-1-yl}oxy)acetaldehyde | O1[C@@H](CCC1)[C@@H](CC=C)OCC=O | C10H16O3
reactant | N-hydroxy-2-({1-[(1R,2R)-2-methylcyclopropyl]but-3-en-1-yl}oxy)ethanimine | ON=CCOC(CC=C)[C@H]1[C@@H](C1)C | C10H17NO2
product | N-hydroxy-2-({(1R)-1-[(2S)-tetrahydrofuran-2-yl]but-3-en-1-yl}oxy)ethanimine | ON=CCO[C@H](CC=C)[C@H]1OCCC1 | C10H17NO3
